US05840911
a) 4-Thiocarbamoyl-2,3-dihydro-1H-inden-1-one
A solution of 12.1 g (77 mmol) of 4-cyano-2,3-dihydro-1H-inden-1-one [see Coll. Czechoslov. Chem. Commun. 4, 3227 (1978)] in 220 ml of pyridine and 10.6 ml (77 mmol) of triethylamine is saturated with hydrogen sulfide for 3 hours at 40° and is then stirred at the same temperature for 16 hours. The reaction mixture is cooled and then concentrated to dryness by evaporation, and 300 ml of water are added to the residue. The yellow product that has crystallized out is filtered off with suction, washed with water, dried and recrystallized from ethyl acetate. In that manner there is obtained the title compound, m.p. 197° (decomp.).

reactant | 4-cyano-2,3-dihydro-1H-inden-1-one | 77 mmol, 12.1 g | C(#N)C1=C2CCC(C2=CC=C1)=O | C10H7NO
reactant | triethylamine | 77 mmol, 10.6 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 220 ml | N1=CC=CC=C1 | C5H5N
product | 4-Thiocarbamoyl-2,3-dihydro-1H-inden-1-one | C(N)(=S)C1=C2CCC(C2=CC=C1)=O | C10H9NOS
